US07700786B2
Potassium carbonate (0.50 g, 3.6 mmol) and methyl isocyanate (0.17 g, 3.0 mmol) were added to a solution of 4-ethyl-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole (1.13 g, 3.6 mmol) in ethyl acetate (20 ml), and the mixture was stirred at room temperature overnight. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with diethyl ether (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/3), to give a yellow solid of N-methyl-4-ethyl-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.62 g, yield: 55.5%). mp: 81-82° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.14 (t, J=7.6 Hz, 3H), 2.41 (q, J=7.6 Hz, 2H), 2.56 (s, 3H), 2.90 (d, J=5.0 Hz, 3H), 6.50-6.75 (m, 1H), 7.51 (d, J=8.7 Hz, 1H), 7.84 (dd, J=2.1 and 8.7 Hz, 1H), 8.26 (d, J=2.1 Hz, 1H).

reactant | Potassium carbonate | 3.6 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isocyanate | 3.0 mmol, 0.17 g | CN=C=O | C2H3NO
reactant | 4-ethyl-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole | 3.6 mmol, 1.13 g | C(C)C=1C(=NNC1C)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H12F3N3O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-4-ethyl-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 0.62 g, yield: 55.5% | CNC(=O)N1N=C(C(=C1C)CC)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C15H15F3N4O4
